US06265575B1
Part C. 1-[3-[4-(Benzo[b]thiophen-2-yl)phenyl]propyl]pyrrolidine
A solution of 1.2 g (3.6 mmol) of 1-[trans-4-(benzo[b]thiophen-2-yl)cinnamoyl]pyrrolidine (Part B) in 15 mL of THF was treated with 75 mg (2.0 mmol) of LiAlH4 at −15° C. After complete consumption of starting material, the reaction was cautiously quenched with H2O. The mixture was extracted with EtOAc and the combined organic layers were evaporated in vacuo. Chromatography afforded 600 mg (1.9 mmol; 52% yield) of the desired product.

reactant | 1-[trans-4-(benzo[b]thiophen-2-yl)cinnamoyl]pyrrolidine | 3.6 mmol, 1.2 g | S1C2=C(C=C1C1=CC=C(/C=C/C(=O)N3CCCC3)C=C1)C=CC=C2 | C21H19NOS
reactant | LiAlH4 | 2.0 mmol, 75 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-[3-[4-(Benzo[b]thiophen-2-yl)phenyl]propyl]pyrrolidine | 52% yield | S1C2=C(C=C1C1=CC=C(C=C1)CCCN1CCCC1)C=CC=C2 | C21H23NS
